data/polar.json
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:5][O:9][c:13]1[cH:36][cH:18][c:17]([CH:26]=[C:25]2[CH:27]=[C:14]([Br:21])[C:16](=[O:20])[C:15]([Br:22])=[CH:28]2)[cH:19][cH:37]1.[cH:1]1[cH:6][c:31]([CH:3]=[C:35]2[CH:32]=[CH:11][C:29](=[N+:30]([O-:23])[O-:24])[CH:12]=[CH:33]2)[cH:7][cH:2][c:8]1[N+:34](=[O:4])[O-:10]>>[cH:1]1[cH:6][c:31]([CH:3]([CH:26]([c:17]2[cH:18][cH:36][c:13]([O:9][CH3:5])[cH:37][cH:19]2)[c:25]2[cH:27][c:14]([Br:21])[c:16]([O-:20])[c:15]([Br:22])[cH:28]2)[c:35]2[cH:32][cH:11][c:29]([N+:30](=[O:23])[O-:24])[cH:12][cH:33]2)[cH:7][cH:2][c:8]1[N+:34](=[O:4])[O-:10]", "epd": [["LP-/Pi+", [23], [30, 23]], ["Pi-/Pi+", [29, 30], [11, 29]], ["Pi-/Pi+", [32, 11], [35, 32]], ["Pi-/Sigma+", [3, 35], [3, 26]], ["Pi-/Pi+", [26, 25], [25, 27]], ["Pi-/Pi+", [27, 14], [14, 16]], ["Pi-/LP+", [16, 20], [20]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[N:1]([CH3:20])([CH3:21])[CH3:22].[cH:2]1[cH:8][cH:12][cH:11][cH:5][c:18]1[P:7](=[O:14])([c:19]1[cH:3][cH:9][cH:13][cH:10][cH:4]1)[N:23]=[CH:6][c:15]1[cH:25][cH:16][cH:24][cH:17][cH:26]1>>[N+:1]([CH:6]([c:15]1[cH:25][cH:16][cH:24][cH:17][cH:26]1)[N:23]=[P:7]([O-:14])([c:18]1[cH:2][cH:8][cH:12][cH:11][cH:5]1)[c:19]1[cH:3][cH:9][cH:13][cH:10][cH:4]1)([CH3:20])([CH3:21])[CH3:22]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Pi-/Pi+", [6, 23], [23, 7]], ["Pi-/LP+", [7, 14], [14]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[O:1]=[C:24]1[N:6]([CH3:21])[C:23](=[O:8])[N:7]([CH3:22])[C:25](=[O:2])[C:16]1=[CH:18][c:9]1[cH:26][cH:3][c:17]([O:14][CH3:12])[cH:4][cH:27]1.[n:5]1[cH:19][cH:10][c:15]([NH2:13])[cH:11][cH:20]1>>[O-:1][c:24]1[n:6]([CH3:21])[c:23](=[O:8])[n:7]([CH3:22])[c:25](=[O:2])[c:16]1[CH:18]([n:5]1[cH:19][cH:10][c:15](=[NH2+:13])[cH:11][cH:20]1)[c:9]1[cH:26][cH:3][c:17]([O:14][CH3:12])[cH:4][cH:27]1", "epd": [["LP-/Pi+", [13], [15, 13]], ["Pi-/Pi+", [10, 15], [19, 10]], ["Pi-/Sigma+", [5, 19], [5, 18]], ["Pi-/Pi+", [18, 16], [16, 24]], ["Pi-/LP+", [24, 1], [1]]]}
{"reaction_name": "Sulfur-ylide allylic rearrangement", "rsmi": "[N+:4](=[CH2:6])=[N-:8].[S:1]([CH2:2][CH:7]=[CH2:5])[CH3:3]>>[N:4]#[N:8].[S:1]([CH3:3])[CH2:6][CH2:2][CH:7]=[CH2:5]", "epd": [["Pi-/Sigma+", [4, 6], [1, 6]], ["Sigma-/Sigma+", [1, 2], [2, 6]], ["LP-/Pi+", [8], [4, 8]], ["Sigma-/LP+", [4, 6], [4]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:2]([S:8][C:19]([F:11])([F:12])[F:13])[C:9]([CH3:17])([CH3:18])[c:24]1[cH:4][cH:14][cH:10][cH:15][cH:5]1.[cH:1]1[c:21]2[cH:20][cH:7][cH:3][cH:16][c:23]2[cH-:6][cH:22]1>>[CH:1]1=[CH:22][CH:6]([S:8][C:19]([F:11])([F:12])[F:13])[c:23]2[cH:16][cH:3][cH:7][cH:20][c:21]21.[O-:2][C:9]([CH3:17])([CH3:18])[c:24]1[cH:4][cH:14][cH:10][cH:15][cH:5]1", "epd": [["LP-/Sigma+", [6], [6, 8]], ["Sigma-/LP+", [8, 2], [2]]]}
{"reaction_name": "Lombardo methylenation", "rsmi": "[CH2:1]=[P:13]([CH3:10])([CH3:11])[CH3:12].[O:2]([CH3:5])[C:7]([CH2:8][C:4]([H:3])=[O:6])=[O:9]>>[CH2:1]=[C:4]([H:3])[CH2:8][C:7]([O:2][CH3:5])=[O:9].[O:6]=[P:13]([CH3:10])([CH3:11])[CH3:12]", "epd": [["Pi-/Sigma+", [1, 13], [6, 13]], ["Pi-/Sigma+", [4, 6], [1, 4]], ["Sigma-/Pi+", [1, 13], [1, 4]], ["Sigma-/Pi+", [4, 6], [6, 13]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH2:1]1[CH2:7][CH2:3][NH:15][C:6]2=[N:18][CH2:2][CH2:8][CH2:14][N:9]12.[CH:4](=[O+:17][CH3:16])[c:19]1[cH:12][cH:10][cH:5][cH:11][cH:13]1>>[CH2:1]1[CH2:7][CH2:3][NH:15][C:6]2=[N+:9]1[CH2:14][CH2:8][CH2:2][N:18]2[CH:4]([O:17][CH3:16])[c:19]1[cH:12][cH:10][cH:5][cH:11][cH:13]1", "epd": [["LP-/Pi+", [9], [6, 9]], ["Pi-/Sigma+", [18, 6], [18, 4]], ["Pi-/LP+", [4, 17], [17]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:3]1=[CH:8][c:9]2[cH:13][cH:12][cH:20][cH:10][c:14]2[CH:21]1[Na:15].[c:1]1([N+:5](=[O:18])[O-:19])[s:6][cH:2][c:7]([N+:4](=[O:11])[O-:16])[cH:17]1>>[C:1]1([N+:5](=[O:18])[O-:19])=[CH:17][C:7](=[N+:4]([O-:11])[O-:16])[CH:2]([CH:21]2[CH:3]=[CH:8][c:9]3[cH:13][cH:12][cH:20][cH:10][c:14]32)[S:6]1.[Na+:15]", "epd": [["Sigma-/Sigma+", [21, 15], [21, 2]], ["Pi-/Pi+", [2, 7], [7, 4]], ["Pi-/LP+", [4, 11], [11]]]}
{"reaction_name": "Benzylic nucleophilic substitution", "rsmi": "[OH-:8].[cH:1]1[cH:3][c:5]([CH2:9][Br:7])[cH:4][cH:2][cH:6]1>>[Br-:7].[cH:1]1[cH:3][c:5]([CH2:9][OH:8])[cH:4][cH:2][cH:6]1", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Sigma-/LP+", [7, 9], [7]]]}
{"reaction_name": "Nitrile-to-carboxylic-acid conversion", "rsmi": "[N:3]#[C:8][CH3:9].[O:1]([H:4])[H:5].[O:2]([H:6])[H:7]>>[N:3]([H:4])([H:5])[H:7].[O:1]=[C:8]([O:2][H:6])[CH3:9]", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [3, 8], [3]], ["LP-/Sigma+", [3], [3, 4]], ["Sigma-/LP+", [1, 4], [1]], ["LP-/Sigma+", [1], [1, 8]], ["Pi-/LP+", [3, 8], [3]], ["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [1, 5], [1]], ["LP-/Pi+", [1], [1, 8]], ["Pi-/LP+", [3, 8], [3]], ["LP-/Sigma+", [3], [3, 7]], ["Sigma-/LP+", [2, 7], [2]]]}
